US03959359
4-[2-(1-methyl-phenethylamino)-ethoxy]-butyrophenone
α-methyl-phenethylamine (0.02 mole) and 4-(2-bromo-ethoxy)-butyrophenone (0.01 mole) dissolved in ethanol (20 cc) are refluxed during 15 hours. The procedure described in Example 1 is then used. 4-[2-(1-methyl-phenethylamino)-ethoxy]-butyrophenone hydrochloride melts at 195°-197°C.

reactant | α-methyl-phenethylamine | 0.02 mole | CC(CC1=CC=CC=C1)N | C9H13N
reactant | 4-(2-bromo-ethoxy)-butyrophenone | 0.01 mole | BrCCOCCCC(=O)C1=CC=CC=C1 | C12H15BrO2
reactant | 4-[2-(1-methyl-phenethylamino)-ethoxy]-butyrophenone hydrochloride | Cl.CC1(CCNCCOCCCC(=O)C2=CC=CC=C2)CC=CC=C1
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | 4-[2-(1-methyl-phenethylamino)-ethoxy]-butyrophenone | CC1(CCNCCOCCCC(=O)C2=CC=CC=C2)CC=CC=C1 | C21H29NO2
